US07205292B2
Step A: N-{1-benzyl-3-[4-(benzyloxy)benzyl]-2-oxoazepan-3-yl}-4-(2-oxo-1,4-dihydroquinazolin-3(2H)-yl)piperidine-1-carboxamide
Phosgene (20% wt. in toluene; 0.49 mL, 0.92 mmol) was added to a solution of 3-amino-1-benzyl-3-[4-(benzyloxy)benzyl]azepan-2-one (76 mg, 0.18 mmol) and triethylamine (0.80 mL, 0.55 mmol) in dichloromethane (2 mL) at 0° C. After 30 min, the mixture was concentrated and redissoved in acetonitrile (5 mL). Diisopropylethylamine (0.060 mL, 0.37 mmol), and 4-(2-oxo-1,4-dihydroquinazolin-3(2H)-yl)piperidinium chloride (49 mg, 0.18 mmol) were added and the mixture was heated to reflux. After 1 h, the mixture was allowed to cool to ambient temperature and concentrated. Purification by silica gel chromatography (1% methanol/dichloromethane→5% methanol/dichloromethane gave the title compound (114 mg). MS 672 (M+1).

reactant | Phosgene | 0.92 mmol, 0.49 mL | C(=O)(Cl)Cl | CCl2O
reactant | 3-amino-1-benzyl-3-[4-(benzyloxy)benzyl]azepan-2-one | 0.18 mmol, 76 mg | NC1(C(N(CCCC1)CC1=CC=CC=C1)=O)CC1=CC=C(C=C1)OCC1=CC=CC=C1 | C27H30N2O2
reactant | triethylamine | 0.55 mmol, 0.80 mL | C(C)N(CC)CC | C6H15N
reactant | Diisopropylethylamine | 0.37 mmol, 0.060 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 4-(2-oxo-1,4-dihydroquinazolin-3(2H)-yl)piperidinium chloride | 0.18 mmol, 49 mg | [Cl-].O=C1NC2=CC=CC=C2CN1C1CC[NH2+]CC1
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
product | N-{1-benzyl-3-[4-(benzyloxy)benzyl]-2-oxoazepan-3-yl}-4-(2-oxo-1,4-dihydroquinazolin-3(2H)-yl)piperidine-1-carboxamide | 114 mg | C(C1=CC=CC=C1)N1C(C(CCCC1)(CC1=CC=C(C=C1)OCC1=CC=CC=C1)NC(=O)N1CCC(CC1)N1C(NC2=CC=CC=C2C1)=O)=O | C41H45N5O4
